US05932571
Synthesis of 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane
Combine 4-(1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt in tetrahydrofuran (130 mL) and water (40 mL). Add sodium bicarbonate (4.26 g, 50.7 mmol) and cool the reaction mixture to about 5° C. using an ice-bath. Add a solution of di-t-butyl dicarbonate (5.54 g, 25.4 mmol) in tetrahydrofuran (20 mL). After the addition is complete warm the reaction mixture to ambient temperature. After 18 hours, concentrate the reaction mixture in vacuo to remove most to the tetrahydrofuran and extract with dichloromethane. Extract the organic layer with water and then brine. Dry the organic layers over Na2SO4, filter, and evaporate in vacuo to give, after drying, the title compound: mp; 225-226° C.

reactant | 4-(1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.N1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | sodium bicarbonate | 50.7 mmol, 4.26 g | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 25.4 mmol, 5.54 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
